US07977354B2
Stage A: 3-methyl-6,8-dimethoxy-4-isoquinolinecarboxamide
3-methyl-4-cyano-6,8-dimethoxyisoquinoline (2.28 g, 20 mmol) reported in Tetrahedron Letters, 1968, 44, 1160-1163 is added to a finely powdered urea-hydrogen peroxide adduct (1.88 g, 20 mmol) in a glass tube, and the reaction mixture is placed in an oil bath at 85° C. for 2 hours. After completion of the reaction, the reaction mixture is extracted with ethyl acetate and the combined extracts are washed with water and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford the title compound.

reactant | 3-methyl-4-cyano-6,8-dimethoxyisoquinoline | 20 mmol, 2.28 g | CC=1N=CC2=C(C=C(C=C2C1C#N)OC)OC | C13H12N2O2
reactant | urea hydrogen peroxide | 20 mmol, 1.88 g | NC(=O)N.OO
product | 3-methyl-6,8-dimethoxy-4-isoquinolinecarboxamide | CC=1N=CC2=C(C=C(C=C2C1C(=O)N)OC)OC | C13H14N2O3
